US06949648B2
4-Hydrazinopyridine hydrochloride
The title compound was prepared according to the method described in J. Chem. Soc., p. 3830 (1959). A solution of 4-chloropyridine (16.5 g, 145 mmol) and hydrazine monohydrate (7.76 mL, 160 mmol) in 1-propanol (50 mL) was heated under reflux for 18 hours. The solution was cooled to 0° C., and the resulting crystals were collected by filtration. The crystals were washed with cold 1-propanol and air dried to give the title compound (15.2 g, 72% yield). The compound was used in the following process without further purification.

reactant | 4-chloropyridine | 145 mmol, 16.5 g | ClC1=CC=NC=C1 | C5H4ClN
reactant | hydrazine monohydrate | 160 mmol, 7.76 mL | O.NN
solvent | 1-propanol | 50 mL | C(CC)O | C3H8O
product | 4-Hydrazinopyridine hydrochloride | 15.2 g, 72% yield | Cl.N(N)C1=CC=NC=C1 | InChI=1S/C5H7N3.ClH/c6-8-5-1-3-7-4-2-5;/h1-4H,6H2,(H,7,8);1H
